### PR TITLE
feat: add `BitVec.(getElem, getLsbD, getMsbD, msb)_smod` theorems

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR introduces `BitVec.(getElem, getLsbD, getMsbD, msb)_smod` theorems. Since `smod` is defined in terms of `umod` depending on the sign bits of the operands, the RHS of the theorems unfolds this definition. As a result, the RHS relies on a relatively complex `match` statement. While unfolding the LHS with simp would yield the same match statement, we add explicit theorems to document that no simpler RHS is available.

### CODE REVIEW

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -1280,4 +1280,62 @@ theorem getMsbD_umod {n d : BitVec w}:
...
+    | false, false => (n.umod d)
+    | false, true =>
+      let u := n.umod (-d);
+      if u = 0#w then u else (u + d)
+    | true, false =>
+      let u := (-n).umod d;
+      if u = 0#w then u else (d - u)
+    | true, true => (-(-n).umod (-d)))[i] := by
+  rw [smod_eq]
+  cases n.msb  <;> cases d.msb <;> simp
```
Comment (bollu) [inline src/Init/Data/BitVec/Bitblast.lean:1297]: The RHS of this theorem (and all of the ones below) are not particularly pretty.

For the sake of the completeness of the API, I'd be happy to create a new `def smodCircuit := ...`, which hides the reduction from `smod` to `umod`, and reshape the right hand sides of all of these theorems into this `def`.

**Review by bollu — COMMENTED** [review]
I left my opinion on what we should do with the right-hand-sides of the theorem statements.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -1280,4 +1280,62 @@ theorem getMsbD_umod {n d : BitVec w}:
...
+
+theorem getLsbD_smod {n d : BitVec w}:
+    (BitVec.smod n d).getLsbD i
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1300]:
```suggestion
theorem getLsbD_smod {n d : BitVec w} :
    (BitVec.smod n d).getLsbD i
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 3]
```diff
@@ -1280,4 +1280,62 @@ theorem getMsbD_umod {n d : BitVec w}:
...
+      if u = 0#w then u else (u + d)
+    | true, false =>
+      let u := (-n).umod d;
+      if u = 0#w then u else (d - u)
+    | true, true => (-(-n).umod (-d))).getLsbD i := by
+  rw [smod_eq]
+  cases n.msb  <;> cases d.msb <;> simp
+
+theorem getMsbD_smod {n d : BitVec w}:
+    (BitVec.smod n d).getMsbD i
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1314]:
```suggestion
theorem getMsbD_smod {n d : BitVec w} :
    (BitVec.smod n d).getMsbD i
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 4]
```diff
@@ -1280,4 +1280,62 @@ theorem getMsbD_umod {n d : BitVec w}:
...
+      if u = 0#w then u else (u + d)
+    | true, false =>
+      let u := (-n).umod d;
+      if u = 0#w then u else (d - u)
+    | true, true => (-(-n).umod (-d))).getMsbD i := by
+  rw [smod_eq]
+  cases n.msb  <;> cases d.msb <;> simp
+
+theorem msb_smod {n d : BitVec w}:
+    (BitVec.smod n d).msb
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1328]:
```suggestion
theorem msb_smod {n d : BitVec w} :
    (BitVec.smod n d).msb
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 5]
```diff
@@ -1280,4 +1280,62 @@ theorem getMsbD_umod {n d : BitVec w}:
     simp [BitVec.getMsbD_eq_getLsbD, hi]
   · simp [show w ≤ i by omega]
 
+/- ### smod -/
+
+theorem getElem_smod {n d : BitVec w} (hi : i < w) :
+    (BitVec.smod n d)[i]
+      = (match n.msb, d.msb with
+    | false, false => (n.umod d)
+    | false, true =>
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:1289]:
```suggestion
    | false, false => n.umod d
    | false, true =>
```

Similarly, there are other parenthesis below that can likely be dropped.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 6]
```diff
@@ -1283,6 +1283,63 @@ theorem getMsbD_umod {n d : BitVec w}:
...
+    | false, false => n.umod d
+    | false, true =>
+      let u := n.umod (-d);
+      if u = 0#w then u else u + d
+    | true, false =>
+      let u := (-n).umod d;
+      if u = 0#w then u else d - u
+    | true, true => (-(-n).umod (-d)))[i] := by
+  rw [smod_eq]
+  cases n.msb  <;> cases d.msb <;> simp
```
Comment (ineol) [inline src/Init/Data/BitVec/Bitblast.lean:1300]:
```suggestion
  rfl
```
Also for the other theorems I assume

**Comment by luisacicolini** [comment]
the correct lemmas not wxist.
